US05464829
(b) Preparation of 7-[(Z)-2-(2-aminothiazol-4-yl)-2-{(S)-1-carboxyethoxyimino}acetamido]-3-(1,5-dimethylimidazolo[4,5-c]pyridinium-2-yl)thiomethyl-3-cephem-4-carboxylate
Using 334 mg of p-methoxybenzyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-{(S)-1-diphenylmethoxycarbonylethoxyimino}acetamido]-3-(1,5-dimethylimidazolo[4,5-c]pyridinium-2-yl)thiomethyl-3-cephem-4-carboxylate trifluoroacetate as a starting material, the reaction and purification were carried out in the same manner as in Example 1(b) to obtain 87 mg of the title compound in the form of a sodium salt in a yield of 51%.

reactant | p-methoxybenzyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-{(S)-1-diphenylmethoxycarbonylethoxyimino}acetamido]-3-(1,5-dimethylimidazolo[4,5-c]pyridinium-2-yl)thiomethyl-3-cephem-4-carboxylate trifluoroacetate | 334 mg | FC(C(=O)[O-])(F)F.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2[N+](=C3C(=CN(C=C3)C)N2)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/O[C@@H](C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium | [Na] | Na
product | 7-[(Z)-2-(2-aminothiazol-4-yl)-2-{(S)-1-carboxyethoxyimino}acetamido]-3-(1,5-dimethylimidazolo[4,5-c]pyridinium-2-yl)thiomethyl-3-cephem-4-carboxylate | 87 mg, yield of 51% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2[N+](=C3C(=CN(C=C3)C)N2)C)C(=O)[O-])C1=O)=N/O[C@@H](C)C(=O)O | C24H24N8O7S3
